US05177100
A solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole (8.4 g) in chloroform (60ml) containing diphenyl disulphide (8.72 g) was treated with t-butyl nitrite (4.12 g) over a period of 5 minutes at room temperature. The solution was heated at 50° C. for 2 hours, cooled to room temperature, and washed with water (2×50ml). After drying over anhydrous magnesium sulphate, the solution was evaporated in vacuo to give an orange liquid. This was purified by chromatography, eluting with dichloromethane/hexane (1:3), followed by recrystallisation from hexane to give 3-cyano-1(2,6-dichloro-4-trifluoromethylphenyl)-5-phenylthio-4-trifluoromethylthiopyrazole (1.8 g) as a white solid, m.p. 84°-86° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole | 8.4 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | diphenyl disulphide | 8.72 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | t-butyl nitrite | 4.12 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | chloroform | 60ml | C(Cl)(Cl)Cl | CHCl3
product | 3-cyano-1(2,6-dichloro-4-trifluoromethylphenyl)-5-phenylthio-4-trifluoromethylthiopyrazole | 1.8 g | C(#N)C1=NN(C(=C1SC(F)(F)F)SC1=CC=CC=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C18H7Cl2F6N3S2
